US04379788
2-[4-(2-Hydroxy-3-isopropylamino-propoxy)-phenyl]-6-methoxy-3,4-dihydro-quinazolin-4-one
This compound was prepared analogous to Example 4 from 2-[4-(1,2-epoxy-propoxy)-phenyl]-6-methoxy-3,4-dihydro-quinazolin-4-one and isopropylamine.

reactant | 2-[4-(1,2-epoxy-propoxy)-phenyl]-6-methoxy-3,4-dihydro-quinazolin-4-one | O1C(C1C)OC1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(N1)=O)OC | C18H16N2O4
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 2-[4-(2-Hydroxy-3-isopropylamino-propoxy)-phenyl]-6-methoxy-3,4-dihydro-quinazolin-4-one | OC(COC1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(N1)=O)OC)CNC(C)C | C21H25N3O4
